US05272148
3-(1-Piperazinyl)thieno[2,3-c]pyridine
A mixture of 2-carbomethoxy-3-aminothieno[2,3-c]pyridine (5.0 g), and piperazine (4.13 g) in N-methylpyrrolidinone (30 ml) was heated to 150° until decarboxyalkylation was complete. The mixture was cooled to room temperature, diluted with water, and extracted with ethyl acetate. The organic extracts were combined, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residual 3-aminothieno[2,3-c]pyridine, piperazine (12.5 g), p-toluenesulfonic acid (100 mg), and N-methylpyrrolidinone (50 ml) was heated under reflux (202°) overnight. The mixture was allowed to cool to room temperature, diluted with water, and extracted with dichloromethane. The organic extracts were combined, dried over anhydrous magnesium sulfate, filtered and the filtrate was concentrated in vacuo, finally at 50° (0.1 mm Hg). The residue was chromatographed on silica, using 1:1 dichloromethane:methanol eluent. The appropriate fractions were combined and concentrated. Crystallization of the residue from ethyl acetate provided 0.66 g (12%) of product, mp 126°-127.5° (dried 80° 0.1 mm Hg).

reactant | 2-carbomethoxy-3-aminothieno[2,3-c]pyridine | 5.0 g | C(=O)(OC)C1=C(C=2C(=CN=CC2)S1)N | C9H8N2O2S
reactant | piperazine | 4.13 g | N1CCNCC1 | C4H10N2
solvent | N-methylpyrrolidinone | 30 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 3-(1-Piperazinyl)thieno[2,3-c]pyridine | N1(CCNCC1)C1=CSC2=CN=CC=C21 | C11H13N3S
